US08445512B2
A mixture of 4.0 g (19.7 mmol) 1-(2-amino-4-(trifluoromethyl)phenyl)ethanone, 11.5 ml (98.5 mmol) 4-chloro-diacetic acid ethyl ester and 1.7 ml (19.7 mmol) conc. hydrochloric acid was heated to 75° C. for 6 min in a sealed vessel by microwaves (50 W). The mixture was subsequently diluted with EtOAc and water. The organic phase was separated, washed with a 1M aq. NaHCO3 sol., dried over MgSO4 and concentrated in a vacuum. The raw product (7.47 g) obtained after CC (EtOAc/hexane 3:17) of the residue was dissolved in MeOH (76 ml) and 35.3 ml (70.6 mmol) of a 2M aq. LiOH sol. was added. The mixture was subsequently stirred for 16 h at RT and heated to 60° C. for a further 24 h. After cooling to RT, the mixture was diluted with water and EtOAc. The organic phase was separated, dried over MgSO4 and concentrated in a vacuum. After CC (EtOAc/hexane 1:3) of the residue, 985 mg (3.1 mmol, 16%) 2-(methoxymethyl)-4-methyl-7-(trifluoromethyl)quinoline-3-carboxylic acid methyl ester was obtained.

reactant | 1-(2-amino-4-(trifluoromethyl)phenyl)ethanone | 19.7 mmol, 4.0 g | NC1=C(C=CC(=C1)C(F)(F)F)C(C)=O | C9H8F3NO
reactant | hydrochloric acid | 19.7 mmol, 1.7 ml | Cl | ClH
reactant | LiOH | 2M | [Li+].[OH-]
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
solvent | MeOH | 76 ml | CO | CH4O
product | 2-(methoxymethyl)-4-methyl-7-(trifluoromethyl)quinoline-3-carboxylic acid methyl ester | 3.1 mmol, 985 mg, 16% | COC(=O)C=1C(=NC2=CC(=CC=C2C1C)C(F)(F)F)COC | C15H14F3NO3
